US07262200B2
Step B: 2,4-Dichloro-6-(2-chloro-phenyl)-pyrimidine
6-(2-Chloro-phenyl)-1H-pyrimidine-2,4-dione (200 mg, 0.9 mmol) was taken into 5 ml of POCl3. Triethylamine hydrochloride (495 mg) was added to the mixture and heated at 100 C for 18 hours. The mixture was coiled and evaporated in vacuo to afford a white solid. The solid was suspended in ice water and was carefully basified with saturated sodium bicarbonate. A precipitate was collected by vacuum filtration and dried overnight to afford 183 mg (73% yield) of the desired product. HPLC Rt 8.006 mins (100% purity); MS (ES+) m/e 261.0 (M+H)

reactant | 6-(2-Chloro-phenyl)-1H-pyrimidine-2,4-dione | 0.9 mmol, 200 mg | ClC1=C(C=CC=C1)C1=CC(NC(N1)=O)=O | C10H7ClN2O2
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Triethylamine hydrochloride | 495 mg | Cl.C(C)N(CC)CC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2,4-Dichloro-6-(2-chloro-phenyl)-pyrimidine | 183 mg, 73% yield | ClC1=NC(=CC(=N1)Cl)C1=C(C=CC=C1)Cl | C10H5Cl3N2
